US08426402B2
Methyl 4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxylate
Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylate (2.50 g, 9.80 mmol) in 30 ml of EtAc was added 6 ml of HCl (conc.). After stirred for 30 min, the mixture was diluted with ethanol and toluene, concentrated and co-evaporated with ethanol/toluene (1:1, 3×50 ml) to dryness compound without further purification. To the dryness compound was added 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylic acid (2.36 g, 9.8 mmol), EDC (5.90 g, 30.7 mmol), DIPEA (1.70 ml, 9.8 mmol) and 80 ml of DMA. The mixture was stirred under Ar overnight, concentrated, diluted with THF/EtAc (1:2, 150 ml), and washed 1M NaH2PO4/NaCl (conc) and NaHCO3 (conc) separately. The organic solvent layer was separated and dried over MgSO4, filtered, concentrated and purified on SiO2 chromatography eluted with EtAc/DCM (1:25 to 1:15) to afford 2.65 g (71.5%) of the title product. 1H NMR (DMSO) 11.17 (s, 1H), 10.48 (s, 1H), 7.58 (s, 1H), 7.32 (s, 1H), 4.01 (s, 3H), 3.94 (s, 3H), 3.92 (s, 3H), 1.45 (s, 9H); 13C NMR 160.60, 157.30, 135.92, 135.45, 132.86, 126.12, 114.83, 79.50, 52.70, 35.58, 34.92, 28.08; MS m/z+401.8 (M+Na).

reactant | Methyl 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylate | 9.80 mmol, 2.50 g | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)OC | C11H17N3O4
reactant | HCl | 6 ml | Cl | ClH
reactant | 4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxylic acid | 9.8 mmol, 2.36 g | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)O | C10H15N3O4
reactant | EDC | 30.7 mmol, 5.90 g
reactant | DIPEA | 9.8 mmol, 1.70 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMA | 80 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxylate | 2.65 g, 71.5% | C(C)(C)(C)OC(=O)NC=1N=C(N(C1)C)C(=O)NC=1N=C(N(C1)C)C(=O)OC | C16H22N6O5
